US07034039B2
Tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(1H-tetrazol-1-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.24 g, 0.5 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml) and the mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure and the obtained crystals was crystallized from methanol-diethyl ether to give 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(1H-tetrazol-1-yl)-1(2H)-isoquinolinone hydrochloride (0.19 g, 95.0%) as crystals.

reactant | Tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(1H-tetrazol-1-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.5 mmol, 0.24 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)N1N=NN=C1)=O)CC(C)C)=O | C24H34N6O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(1H-tetrazol-1-yl)-1(2H)-isoquinolinone hydrochloride | 0.19 g, 95.0% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)N1N=NN=C1)=O)CC(C)C | InChI=1S/C19H26N6O2.ClH/c1-4-5-8-27-18-16-9-14(25-12-21-22-23-25)6-7-15(16)19(26)24(11-13(2)3)17(18)10-20;/h6-7,9,12-13H,4-5,8,10-11,20H2,1-3H3;1H
